Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
iodine dye / Lipitor / Lasix / Crestor / Zetia / amoxicillin
 
Attending: ___
 
Chief Complaint:
Back pain, c/f discitis on MRI 
 
Major Surgical or Invasive Procedure:
___ guided spine biopsy (___)

 
History of Present Illness:
This is a ___ female AVR with bovine valve, paroxysmal 
A.
fib on Eliquis, HFpEF, hypertension, hyperlipidemia, remote hx
Hodgkin's lymphoma and L breast cancer s/p
mastectomy/reconstruction who presents with outpatient MRI c/f
L1-L2 discitis in the setting of one month of lower back pain 
and
3 months bilateral hip pain. 

Symptoms started in ___ with bilateral hip pain, worse on 
the
left side. No antecedent traumatic event. She then gradually
developed pain in the lower back that she describes as "sharp"
and located at the "coccyx".  The pain is worse when sitting or
lying down.  Relieved by standing up.  Over the last few weeks
she has noticed numbness of the anterior thighs bilaterally.  

No urinary retention or incontinence. No bowel incontinence. No
lower extremity weakness. No known active malignancy, IVDU,
fever, trauma.  She has had intermittent chills at night over 
the
last 2 months.  Continues to walk without difficulty.  Her last
teeth cleaning was in ___ and she reports that she did 
take
her prophylactic clindamycin, but took 300 mg instead of the
prescribed 600 mg.  

She had an MRI completed ___ and was sent initially to
___ for question of discitis, now transferred to ___ for
formal spine consult. ESR 3.9, CRP 6.0 (normal at OSH). She
denies fever, weakness, urinary retention/incontinence, saddle
anesthesia. 

She was seen by spine surgery in the ED who noted no surgical
interventions at this time. Recommend admission to medicine for
ID consultation and ___ consultation for possible ___ guided
biopsy. 
 
In the ED:

Initial vital signs were notable for:
Temp 98.0 HR 84 BP 122/45 RR 20 98% RA

Exam notable for: Neuro: Sensation intact upper and lower
extremities, strength ___ upper and lower, CN II-XII intact,
normal finger nose/heel toe, stable gait, no focal deficits
noted, moving all extremities; MSK: No deformities or signs of
trauma, no focal deficits noted. No spinal TTP 

Labs were notable for:

145 103  21
============<95
4.8  26  1.0

         14.3
   8.6 >======< 227
         44.2

ESR/CRP from outside hospital: Negative 

Blood and urine cultures pending 

Consults: Spine surgery 

Upon arrival to the floor, patient eating dinner.  Comfortable
except for headache which she has been having over the last 2
months intermittently.  Also complained of pain in her left hip.

 
Past Medical History:
-Hodgkin's lymphoma stage IIIB with large mediastinal mass in
when she was ___, treated with staging splenectomy and cervical
and mantle radiation and inverted Y radiation, treated in
___. 
-Left breast cancer stage unsure, node positive status post
mastectomy, axillary dissection, and ? CMF chemotherapy,
treated in ___, left breast flap 
reconstruction
at ___.
-___'s thyroiditis.
-Elevated A1c.
-History of severe aortic insufficiency, status post aortic
valve replacement with a bovine valve in ___.  That
hospitalization was complicated by a sternal infection, pleural
effusion requiring thoracentesis.  
-Paroxysmal atrial fibrillation - on eliquis
-HFpEF
-Hypertension.
-Hyperlipidemia.
-Mild valvular MS, Mild to moderate MR. ___ valve
thickening.  ___ TR. All likely radiation-induced. She reports
that her mother had mitral valve disease.
-Transient vision loss, MRI negative. Felt to be ocular
migraine.

SURGERIES:
Staging splenectomy.
Hysterectomy and unilateral oophorectomy for endometriosis at 
age
___. Took Premarin for ___ years.
Left mastectomy and reconstruction in ___.
Open heart surgery for aortic valve replacement, for Aortic
insufficiency at ___. Complicated by wound infection,
pleural effusion, requiring thoracentesis.
Knee joint arthroscopy.
 
Social History:
___
Family History:
Not pertinent to the current admission. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
___ Temp: 98.2 PO BP: 154/76 R Sitting HR: 90
RR: 20 O2 sat: 96% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain 
Score:
___ 
GENERAL: Alert and interactive. In no acute distress.
HEENT: EOMI. Sclera anicteric and without injection. MMM.
NECK: No regionla lymphademopathy. 
CARDIAC: Regular rhythm, normal rate. FGrade II/VI holosytolic
murmur heart best at RUSB. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness.Mild tenderness to palpation
of left paralumbar region. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Patellar tendon reflexes 2+ and symmetric. 

DISCHARGE PHYSICAL EXAM:
PHYSICAL EXAM:
24 HR Data (last updated ___ @ 703)
    Temp: 98.0 (Tm 98.1), BP: 110/64 (105-123/60-69), HR: 80
(73-84), RR: 18, O2 sat: 96% (95-97), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. III/VI holosytolic murmur
heart best at RUSB.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. some lumbar paraspinous
muscle tenderness L>R 
ABDOMEN: Normal bowels sounds, non distended, slight tenderness
to deep palpation in lower abdomen, no rebound/guarding,
normoactive BS.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash.
NEUROLOGIC: AAOx3, moving all extremities 

 
Pertinent Results:
ADMISSION LABS:
___ 03:50PM BLOOD WBC-8.6 RBC-4.40 Hgb-14.3 Hct-44.2 
MCV-101* MCH-32.5* MCHC-32.4 RDW-13.5 RDWSD-50.1* Plt ___
___ 03:50PM BLOOD Neuts-55.6 ___ Monos-12.0 Eos-6.4 
Baso-1.5* Im ___ AbsNeut-4.79 AbsLymp-2.08 AbsMono-1.03* 
AbsEos-0.55* AbsBaso-0.13*
___ 03:50PM BLOOD Glucose-95 UreaN-21* Creat-1.0 Na-145 
K-4.8 Cl-103 HCO3-26 AnGap-16
___ 06:55AM BLOOD Calcium-10.2 Phos-4.0 Mg-2.1
___ 04:05PM BLOOD Lactate-1.1

DISCHARGE LABS:
___ 07:04AM BLOOD WBC-6.3 RBC-4.15 Hgb-13.5 Hct-41.8 
MCV-101* MCH-32.5* MCHC-32.3 RDW-13.3 RDWSD-49.8* Plt ___
___ 07:04AM BLOOD ___ PTT-31.9 ___
___ 07:04AM BLOOD Glucose-107* UreaN-18 Creat-0.8 Na-141 
K-4.7 Cl-102 HCO3-25 AnGap-14
___ 07:04AM BLOOD Calcium-10.0 Phos-3.4 Mg-2.1
 
Brief Hospital Course:
This is a ___ female AVR with bovine valve, paroxysmal 
A. fib on Eliquis, HFpEF, hypertension, hyperlipidemia, remote 
hx Hodgkin's lymphoma and L breast cancer s/p 
mastectomy/reconstruction who presents with outpatient MRI c/f 
L1-L2 discitis in the setting of one month of lower back pain 
and 3 months bilateral hip pain. The patient was evaluated by 
orthospine who did not feel there is any indication for surgery 
at this time. The patient continued to be afebrile and 
laboratory testing was unremarkable for infection. The patient 
then received an ___ guided biopsy on ___ with both 
pathology and microbiology to evaluate for any abnormalities. 
The patient was then discharged post procedurally with plan to 
follow-up biopsy results as an outpatient.

TRANSITIONAL ISSUES:
[ ] Please follow-up biopsy pathology and microbiology studies 
from ___ ___ guided spine biopsy- if positive, patient 
needs to come back to the ED for admission for initiation of 
antibiotic therapy
[ ] The patient's apixaban was held prior to her biopsy. It 
should be restarted after her procedure on ___
[ ] The patient can take Tylenol over the counter for pain as 
needed
[ ] The patient's hip pain should be worked up in the outpatient 
setting

#CONTACT: ___ (daughter) ___

ACUTE ISSUES:
=============
#L1-L2 endplate enhancement concerning for discitis
Patient was transferred to ___ for possible ___ guided biopsy 
of her spine. She had no fevers, and white count, ESR, CRP were 
all unremarkable. The patient was well-appearing and there was 
low suspicion for active back to uremia or endocarditis with 
discitis as a source. Blood cultures had no growth to date. As 
such, the patient was not started on antibiotics. Interventional 
radiology performed biopsy on ___. The patient's 
apixaban was held prior to the procedure and should be resumed 
post-procedurally on ___.

CHRONIC ISSUES:
===============
#HFpEF (EF 62% ___
-Continued home torsemide 5 mg daily with holding parameters

#HTN
-Continued home nebivolol with holding parameters

#HLD
-Takes evolocumab every two weeks 

#Paroxysmal A. fib 
CHADS VASC of at least 5. 
-held apixaban as above

#Hypothyroidism
-Continued home levothyroxine

#Home medications:
-Continued home vit D 

#AVR with bovine valve (___)
-Takes clindamycin prior to dental procedures
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. nebivolol 5 mg oral DAILY 
3. Apixaban 5 mg PO BID 
4. Clindamycin 600 mg PO ONE HOUR PRIOR TO TEETH CLEANING 
5. Torsemide 5 mg PO DAILY 
6. evolocumab 140 mg/mL subcutaneous every 2 weeks 
7. Potassium Chloride 10 mEq PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Clindamycin 600 mg PO ONE HOUR PRIOR TO TEETH CLEANING  
3.  evolocumab 140 mg/mL subcutaneous every 2 weeks  
4.  Levothyroxine Sodium 100 mcg PO DAILY  
5.  nebivolol 5 mg oral DAILY  
6.  Potassium Chloride 10 mEq PO DAILY  
7.  Torsemide 5 mg PO DAILY  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
-L1-L2 discitis
Secondary diagnosis:
-Chronic heart failure with preserved ejection fraction
-Hypertension
-Paroxysmal atrial fibrillation
-Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
Discharge Worksheet  
================================================  
Dear Ms. ___,
  
WHY WERE YOU ADMITTED?
-You came to ___ because you had imaging tests concerning for 
inflammation of one of the discs in your spine (L1-L2 discitis).

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:  
- You had a biopsy to look for infection in the spine.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please be sure to attend your follow up appointments (see 
below)  
- Please take all of your medications as prescribed (see below). 
   

It was a pleasure participating in your care. We wish you the 
best!  

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___